US05834454
Ethyl 5,6-dihydro-9-methyl-6-oxo-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxylate (3.00 g, 11.7 mmol) was added to a mixture of tetrahydrofuran (20 ml) and ethanol (80 ml), and the reaction mixture was cooled to 0° C. Then, sodium borohydride (0.44 g, 11.7 mmol) was added and the resulting mixture was stirred at 0° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and then a 5% aqueous sodium hydroxide solution were added to the residue. After being separated, the aqueous layer was further extracted twice with ethyl acetate, and the combined organic layer was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane= 1/9) to obtain 2.40 g of ethyl 5,6-dihydro-6-hydroxy-9-methyl-4H-pyrrolo [3,2,1-ij]-quinoline-2-carboxylate.

reactant | Ethyl 5,6-dihydro-9-methyl-6-oxo-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxylate | 11.7 mmol, 3.00 g | CC1=CC=C2C(CCN3C2=C1C=C3C(=O)OCC)=O | C15H15NO3
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 11.7 mmol, 0.44 g | [BH4-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | ethyl 5,6-dihydro-6-hydroxy-9-methyl-4H-pyrrolo [3,2,1-ij]-quinoline-2-carboxylate | 2.40 g | OC1CCN2C3=C(C(=CC=C13)C)C=C2C(=O)OCC | C15H17NO3
